US07323475B2
b) 4-Benzyloxy-1-p-tolyl-isoquinoline-3-carboxylic acid butyl ester
4-Benzyloxy-1-bromo-isoquinoline-3-carboxylic acid butyl ester (207 mg, 0.5 mmol) and Pd(PPh3)4 (23 mg, 0.02 mmol) were dissolved in THF (3 ml) and the solution was stirred for 10 min before a solution of p-tolylboronic acid (68 mg, 0.5 mmol) in EtOH (0.5 ml) and a solution of Na2CO3 (106 mg, 1 mmol) in water (0.5 ml) were added. The resulting mixture was refluxed with stirring for 4 h. Subsequently, the mixture was concentrated in vacuo. To the residue was added water (2 ml) and the mixture was extracted with EtOAc (10 ml). The organic phase was dried over MgSO4 and evaporated in vacuo to give a yellowish oil (225 mg). Purification by flash column chromatography on silica gel using hexanes:EtOAc=94:6 as the eluent gave the title compound as a colorless oil; MS-(+)-ion: M+1=426.2.

reactant | 4-Benzyloxy-1-bromo-isoquinoline-3-carboxylic acid butyl ester | 0.5 mmol, 207 mg | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)Br | C21H20BrNO3
reactant | p-tolylboronic acid | 0.5 mmol, 68 mg | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
reactant | Na2CO3 | 1 mmol, 106 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | EtOH | 0.5 ml | CCO | C2H6O
solvent | water | 0.5 ml | O | H2O
catalyst | Pd(PPh3)4 | 0.02 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Benzyloxy-1-p-tolyl-isoquinoline-3-carboxylic acid butyl ester | 225 mg | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)C1=CC=C(C=C1)C | C28H27NO3
